US07700598B2
(R)-1-(3,5-dibromo-4-hydroxy-benzyl)-2-(1′-methanesulphonyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 130 mg (0.21 mmol) of (R)-1-carboxy-2-(3,5-dibromo-4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 80 mg (0.25 mmol) TBTU and 50 μL (0.27 mmol) ethyldiisopropylamine in 10 mL THF was stirred for 50 min at RT. Then 60 mg (0.24 mmol) 1-methanesulphonyl-[4,4′]bipiperidinyl were added and the reaction mixture was stirred overnight at RT. The reaction solution was diluted with 50 mL EtOAc, extracted twice with 30 mL 15% K2CO3 solution, the organic phase was separated off and dried over MgSO4. After the desiccant and solvent had been eliminated the residue was triturated with water and filtered. The solid was combined with 5 mL 1 M HCl and stirred overnight. Further purification of the crude product was carried out by chromatography (silica gel, gradient DCM to DCM/MeOH/NH3 50:45:5). The fractions containing the product were combined, evaporated down i.vac., triturated with DIPE, suction filtered and dried at 40° C.

reactant | (R)-1-carboxy-2-(3,5-dibromo-4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.21 mmol, 130 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)Br)O)Br)C(=O)O)C=CC=C2 | C24H25Br2N3O6
reactant | TBTU | 0.25 mmol, 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 0.27 mmol, 50 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-methanesulphonyl-[4,4′]bipiperidinyl | 0.24 mmol, 60 mg | CS(=O)(=O)N1CCC(CC1)C1CCNCC1 | C11H22N2O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(3,5-dibromo-4-hydroxy-benzyl)-2-(1′-methanesulphonyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)S(=O)(=O)C)CC1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C35H45Br2N5O7S
